US07217719B2
[2-(4-Fluorophenyl)ethyl]triphenylphosphonium bromide (78NLS66)
4-Fluorophenylethyl bromide (700 mg, 3.44 mmol) was dissolved in toluene (4 mL), triphenylphosphine (904 mg, 3.44 mmol) added and the solution heated for 10 min in a sealed flask at 200° C. under microwave heating. After cooling to rt, the solvent was decanted and the title compound was obtained quantitatively as the remaining glassy solid, which was used without further purification.

reactant | 4-Fluorophenylethyl bromide | 3.44 mmol, 700 mg | FC1=CC=C(C=C1)CCBr | C8H8BrF
reactant | triphenylphosphine | 3.44 mmol, 904 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | [2-(4-Fluorophenyl)ethyl]triphenylphosphonium bromide | [Br-].FC1=CC=C(C=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H23FP.BrH/c27-23-18-16-22(17-19-23)20-21-28(24-10-4-1-5-11-24,25-12-6-2-7-13-25)26-14-8-3-9-15-26;/h1-19H,20-21H2;1H/q+1;/p-1
